US04444788
(5Z,13E)-(8R,9R,11R,12R,15S,16RS)-9-Chloro-11,15-dihydroxy-16,19-dimethyl-5,13,18-prostatrienoic Acid Methylsulfonylamide
156 mg of (5Z,13E)-(8R,9R,11R,12R,15S,16RS)-9-chloro-11,15-bis(tetrahydropyran-2-yloxy)-16,19-dimethyl-5,13,18-prostatrienoic acid methylsulfonylamide was stirred for 16 hours under argon at room temperature with 3 ml of a mixture of acetic acid/water/tetrahydrofuran (65/35/10). The mixture was then evaporated under vacuum and the residue purified by column chromatography on silica gel with methylene chloride/5-30% isopropanol as the eluent, thus obtaining 62 mg of the desired compound.

reactant | (5Z,13E)-(8R,9R,11R,12R,15S,16RS)-9-chloro-11,15-bis(tetrahydropyran-2-yloxy)-16,19-dimethyl-5,13,18-prostatrienoic acid methylsulfonylamide | 156 mg | CS(=O)(=O)NC(CCC\C=C/C[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](C(CC=C(C)C)C)OC1OCCCC1)OC1OCCCC1)Cl)=O | C33H54ClNO7S
solvent | acetic acid water tetrahydrofuran | C(C)(=O)O.O.O1CCCC1
product | (5Z,13E)-(8R,9R,11R,12R,15S,16RS)-9-Chloro-11,15-dihydroxy-16,19-dimethyl-5,13,18-prostatrienoic Acid Methylsulfonylamide | 62 mg | CS(=O)(=O)NC(CCC\C=C/C[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](C(CC=C(C)C)C)O)O)Cl)=O | C23H38ClNO5S
